US05780483
a) Preparation of 2-amino-3-chlorophenol
A mixture of 3-chloro-2-nitrophenol(250 mg, 1.4 mmol) and tin (II) chloride (1.2 g, 5.3 mmol) in ethanol(50 mL) was heated at 80° C. under argon. After 2 hours, the starting material has disappeared and the solution was allowed to cool down and then poured into ice. The pH was made slightly basic (pH7-8), by addition of solid NaOH, before being extracted with ethyl acetate. The organic phase was washed with brine, dried over MgSO4 and filtered. The solvent was evaporated and chromatography of the resulting solid on silica gel (4%MeOH/CH2 Cl2) gave the desired product(143 mg, 69%). 1H NMR (CD3 OD): d 6.75 (t,1H), 6.70 (d, 1H), 6.65 (d, 1H).

reactant | 3-chloro-2-nitrophenol | 1.4 mmol, 250 mg | ClC=1C(=C(C=CC1)O)[N+](=O)[O-] | C6H4ClNO3
reactant | tin (II) chloride | 5.3 mmol, 1.2 g | [Sn](Cl)Cl
reactant | NaOH | [OH-].[Na+]
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | 2-amino-3-chlorophenol | 143 mg, 69% | NC1=C(C=CC=C1Cl)O | C6H6ClNO
